US06258829B1
Methyl 8-methoxyimino-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate
In an atmosphere of argon, methyl 8-hydroxyimino-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate (1.01 g, 4.33 mmol) was suspended in a mixed solution of THF (5.0 ml) and dimethylformamide (DMF) (1.5 ml) at 0° C., and the suspension was mixed with sodium hydride (192.0 mg, 4.80 mmol) and stirred at room temperature for 1.5 hours. To this was added dropwise methyl iodide (192.0 mg, 4.80 mmol) at room temperature, followed by 2 hours of stirring. The reaction solution was diluted with ethyl acetate, mixed with water and then extracted with ethyl acetate. The thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (ethyl acetate:hexane=1:3) to obtain the title compound (801.4 mg, 74.5%) as pale yellow powder.

reactant | methyl 8-hydroxyimino-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate | 4.33 mmol, 1.01 g | ON=C1CCCC=2C1=NC(=C(C2)C(=O)OC)C | C12H14N2O3
reactant | THF | 5.0 ml | C1CCOC1 | C4H8O
reactant | sodium hydride | 4.80 mmol, 192.0 mg | [H-].[Na+]
reactant | methyl iodide | 4.80 mmol, 192.0 mg | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | Methyl 8-methoxyimino-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate | 801.4 mg, 74.5% | CON=C1CCCC=2C1=NC(=C(C2)C(=O)OC)C | C13H16N2O3
